US06063810
Asymmetric synthesis of (-)-2,3-dimethyl-7-(2-diethylamino-1(R)-hydroxyethyl)benzofuran
(-)-2,3-dimethyl-7-(2-diethylamino-1(R)-hydroxyethyl)benzofuran hydrochloride -[α]D20 =-85.3° (c=1, methanol)--M.p.: 138-142° C.

reactant | (-)-2,3-dimethyl-7-(2-diethylamino-1(R)-hydroxyethyl)benzofuran hydrochloride | Cl.CC=1OC2=C(C1C)C=CC=C2[C@H](CN(CC)CC)O
solvent | methanol | CO | CH4O
product | (-)-2,3-dimethyl-7-(2-diethylamino-1(R)-hydroxyethyl)benzofuran | CC=1OC2=C(C1C)C=CC=C2[C@H](CN(CC)CC)O | C16H23NO2
